US07115611B2
A] 4-Nitro-2-trifluoromethyl-phenol
A solution of 24.73 g (110.7 mmol) 6-methoxy-5-nitrobenzotrifluoride in 260 ml acetic acid and 130 ml of aqueous HBr solution (62%) was heated to reflux for 96 h, cooled down, evaporated and taken up in aqueous saturated NaHCO3 solution/Et2O (3×). The organic phases were washed with aqueous 10% NaCl, dried over sodium sulfate, and evaporated to dryness to yield 19.27 g of the title compound as yellow solid of mp. 103–104° C.

reactant | 6-methoxy-5-nitrobenzotrifluoride | 110.7 mmol, 24.73 g | COC1=C(C=CC=C1C(F)(F)F)[N+](=O)[O-] | C8H6F3NO3
reactant | acetic acid | 260 ml | C(C)(=O)O | C2H4O2
solvent | HBr | 130 ml | Br | BrH
product | 4-Nitro-2-trifluoromethyl-phenol | 19.27 g | [N+](=O)([O-])C1=CC(=C(C=C1)O)C(F)(F)F | C7H4F3NO3
